US04287204
A solution of 9.5 g (0.053 mole) of N,N-dimethyldithiocarbamic acid (sodium salt dihydrate) in 25 ml of dimethyl sulfoxide is added dropwise at 20° C. in the course of 1 hour to a solution of 18 g (0.052 mole) of 3,5-dinitro-4-[2-methoxyethylamino]-2-chlorobenzotrifluoride in 160 ml of dimethyl sulfoxide, and the batch is stirred for 11/2 hours at room temperature. Stirring is then continued for 3 hours at 80° C. (internal temperature). For working up, the reaction mixture is poured on ice-water and extracted three times with ether. The combined ethereal phases are washed four times with water and three times with sodium chloride solution, died over sodium sulfate, filtered, and concentrated. The residue is recrystallised from ether, affording 7-[2-methoxyethylamino]-6-nitro-4-trifluoromethyl-1,3-benzodithiol-2-one with a melting point of 96°-98° C.

reactant | N,N-dimethyldithiocarbamic acid | 0.053 mole, 9.5 g | CN(C(S)=S)C | C3H7NS2
reactant | 3,5-dinitro-4-[2-methoxyethylamino]-2-chlorobenzotrifluoride | 0.052 mole, 18 g | [N+](=O)([O-])C=1C(=C(C=C(C1NCCOC)[N+](=O)[O-])C(F)(F)F)Cl | C10H9ClF3N3O5
reactant | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
reactant | dimethyl sulfoxide | 160 ml | CS(=O)C | C2H6OS
product | 7-[2-methoxyethylamino]-6-nitro-4-trifluoromethyl-1,3-benzodithiol-2-one | COCCNC1=C(C=C(C2=C1SC(S2)=O)C(F)(F)F)[N+](=O)[O-] | C11H9F3N2O4S2
